US06589984B1
Methyl orthoformate (1.0 g) and polymer-bound PPTS (1.0 g) were added to a solution of methyl 5-formylbenzofuran-2-carboxylate (15 g) in MeOH (100 ml), and after allowing the mixture to stand at room temperature for 8 hours, the reaction solution was filtered and the mother liquor was concentrated under reduced pressure. The residue was purified by silica gel column chromatography (n-hexane/AcOEt=9/1) to obtain methyl 5-(dimethoxymethyl)benzofuran-2-carboxylate.

reactant | Methyl orthoformate | 1.0 g | C(OC)([O-])[O-]
reactant | PPTS | 1.0 g | CC1=CC=C(C=C1)S(=O)(=O)[O-].C1=CC=[NH+]C=C1
reactant | methyl 5-formylbenzofuran-2-carboxylate | 15 g | C(=O)C=1C=CC2=C(C=C(O2)C(=O)OC)C1 | C11H8O4
solvent | MeOH | 100 ml | CO | CH4O
product | methyl 5-(dimethoxymethyl)benzofuran-2-carboxylate | COC(C=1C=CC2=C(C=C(O2)C(=O)OC)C1)OC | C13H14O5
